US06605629B1
To a mixture of 4-(4-chlorophenyl)-2-(2-pyridinylsulfanyl)-5-oxazolepropanol (340 mg), 2-methoxyphenol (250 mg), tributylphosphine (400 mg) and tetrahydrofuran (10 ml) was added 1,1′-(azodicarbonyl)dipiperidine (500 mg) at room temperature, and the resulting mixture was stirred for 1 hour. After the reaction mixture was concentrated, the residue was subjected to silica gel column chromatography, and 4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-(2-pyridylsulfanyl)oxazole was obtained as an oil (251 mg, 57%) from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | 4-(4-chlorophenyl)-2-(2-pyridinylsulfanyl)-5-oxazolepropanol | 340 mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCCO)SC1=NC=CC=C1 | C17H15ClN2O2S
reactant | 2-methoxyphenol | 250 mg | COC1=C(C=CC=C1)O | C7H8O2
reactant | tributylphosphine | 400 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 500 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-(2-pyridylsulfanyl)oxazole | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)OC)SC1=NC=CC=C1 | C24H21ClN2O3S
